US08008302B2
Step a) Formation of diisopropyl (2R,3S)-2-(cyclopentylmethyl)-3-hydroxysuccinate
To a cold (5° C.) solution of diisopropyl-(S)-(−)-malate (50.0 g, 229.1 mmol, 1.0 eq.) and (iodomethyl)cyclopentane (55.6 g, 264.6 mmol, 1.15 eq.) in anhydrous THF (250 mL) under N2 was added over a period of 90 min. a solution (1M) of lithium bis(trimethylsilyl)amide (481 mL; 1.0 M, 481.1 mmol, 2.1 eq.) in THF. The temperature was allowed to warm to 20° C. and the mixture was stirred for 15 hours until completion (monitoring by TLC (SiO2); cyclohexane 8-ethyl acetate 2; treated with molibdic acid).

reactant | diisopropyl-(S)-(−)-malate | 229.1 mmol, 50.0 g, 1.0 eq. | C(C)(C)OC([C@@H](O)CC(=O)OC(C)C)=O | C10H18O5
reactant | (iodomethyl)cyclopentane | 264.6 mmol, 55.6 g, 1.15 eq. | ICC1CCCC1 | C6H11I
reactant | lithium bis(trimethylsilyl)amide | 481.1 mmol, 1M, 481 mL, 2.1 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | diisopropyl (2R,3S)-2-(cyclopentylmethyl)-3-hydroxysuccinate | C1(CCCC1)C[C@@H](C(=O)OC(C)C)[C@@H](C(=O)OC(C)C)O | C16H28O5
